* sg13g2-opamp -- mismatch Monte Carlo CMRR bench, design/opamp_core.sch
* (issue #26; companion to sim/cmrr-psrr/, issue #14)
* Generated from
* sim/cmrr-mismatch/testbench/tb_cmrr_mc.spice.tmpl by
* sim/cmrr-mismatch/run_cmrr_mismatch_mc.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep.
*
* Point: corner=mos_ff temp_c=-40 vdd_v=1.08
*        seed=260018 mc_n=3
* PDK: ihp-sg13g2 /Users/rwalters/share/pdk (see sim/pdk.json for the pinned release)
* OSDI models: /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
* DUT netlist snapshot: /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-26/sim/cmrr-mismatch/netlist-snapshots/20260921-172304-65f5fb4/opamp_core.spice (frozen copy of
*   design/netlist/opamp_core.spice alongside this generated testbench, so
*   the exact DUT netlist this point ran against is reviewable later)
* Per-sample output (append): /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-26/sim/cmrr-mismatch/corners/20260921-172304-65f5fb4/mos_ff_-40C_1.08V_negctl_samples.txt
*
* ------------------------------------------------------------------ method
* The circuit is EXACTLY sim/cmrr-psrr/testbench/tb_cmrr.spice.tmpl's CMRR
* harness (issue #14's committed bench) -- same flat xschem netlist, same
* self-biased DC network (Lbreak = 1e18 H from inn to out; inp held at
* Vcm = VDD/2 through Vinp referenced to the cmpert perturbation node; inn
* AC-coupled to cmpert through Ccm = 1 F; external ideal ibias = 10 uA).
* See that template's header for the loop-break and Ccm reasoning, reused
* verbatim here. What differs is ONLY the model library section and the
* Monte Carlo loop:
*
*   - .lib cornerMOSlv.lib mos_ff -- the runner resolves this
*     to <corner>_mismatch for the mismatch runs (the PDK's per-corner
*     mismatch sections: identical corner .params, plus
*     sg13g2_moslv_mismatch.lib's mismatch sigmas --
*     sg13_lv_{n,p}mos_{delvto,factuo}_mm = 0.0039/0.005 (nmos) and
*     0.0022/0.0033 (pmos), dw/dl_mm = 4e-9/2e-9 -- consumed by
*     sg13g2_moslv_mod_mismatch.lib's agauss() wrappers on w, l, delvto
*     and factuo, Pelgrom-style scaled by 1/sqrt(m*l*w)), or to the PLAIN
*     <corner> section for the negative-control runs (the exact
*     configuration sim/cmrr-psrr/ ran -- no agauss() in the wrapper at
*     all, so every "sample" is the nominal device and the loop must
*     reproduce #25's committed per-point record bit-for-bit).
*   - setseed 260018 once per point, then a dowhile loop of
*     reset / op / ac: each `reset` re-parses the netlist and re-evaluates
*     every agauss() expression, so each sample of the loop is a fresh
*     independent per-instance mismatch draw for all eight MOSFETs
*     simultaneously (input pair M1/M2, mirror M3/M4, tail M5, bias Mbias,
*     output M6/M7 -- correlated only through the PDK's own sigma
*     definitions). setseed makes the whole sequence deterministic: the
*     same (section, temp, vdd, seed, N) tuple reproduces the same sample
*     sequence bit-for-bit (verified in dev -- same seed twice is
*     identical, a different seed changes every draw). The seed formula
*     per grid point is documented in run_cmrr_mismatch_mc.sh and the
*     experiment README.
*
* CMRR definition (unchanged from #14/#26's own wording): each sample's
* CMRR = the SAME grid point's Av0 out of sim/open-loop-ac/records/*.csv
* (joined, not re-measured) minus this sample's Acm, where Acm is the
* common-mode gain measured here (perturbation node cmpert, dc 0 ac 1 V,
* in phase on both inputs). Keeping the numerator fixed to the committed
* systematic Av0 is a deliberate issue-#26 choice: the mismatch-inclusive
* figure stays directly comparable to the ratified systematic floor
* (sim/cmrr-psrr/ records), the residual between the two being purely the
* mismatch-induced change in Acm. Per-sample variation of the drawn
* part's own differential gain is therefore NOT folded into this number;
* see sim/cmrr-mismatch/README.md "What this bench does not claim".
*
* Per-sample AC points: `ac dec 1 10m 1k` sweeps exactly
* {10 mHz, 0.1 Hz, 1 Hz, 10 Hz, 100 Hz, 1 kHz} -- the 10 mHz shelf read
* (Acm0, same read convention as #14), the 0.1 Hz value (the plateau
* guard partner, same 10x-lower rule as #14's *_plateau_delta_db), and
* 1 kHz (the in-band figure #14 also reports). The full 10 mHz - 1 GHz
* per-point spectra are NOT re-swept per sample: #14's committed spectra
* already establish the shelf shape for the systematic case, and the
* loop-break corner frequency that sets the shelf is not a function of
* the drawn device parameters; every sample's 10 mHz-vs-0.1 Hz delta is
* still recorded and guarded (0.05 dB, #14's tolerance) so a flatness
* break would still be caught.
*
* Per-sample DC check data: the OP line below carries the same DC nodes
* #14 echoes (vout, d1, d2, tail, ibias, ivdd); run_cmrr_mismatch_mc.sh
* applies #14's per-point DC sanity rule per sample (output within 15% of
* VDD of mid-rail, no internal node within 2% of a rail) instead of once
* per point, and samples that fail it are excluded from the statistics
* and counted (see the runner's op_pass/excluded columns and README.md
* "Per-sample sanity checks").
*
* ibias: a single external ideal current-source bias pin, per
* design/opamp_sizing.md "Bias scope" -- identical to #14's harness (the
* same scope decision the Iq rows make).
*
* Output mechanism: `echo ... >> /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-26/sim/cmrr-mismatch/corners/20260921-172304-65f5fb4/mos_ff_-40C_1.08V_negctl_samples.txt` appends one tagged line per
* phase per sample (OP for the operating point, AC for the shelf/guard/1k
* values). The two-line-per-sample split is deliberate: after `ac` the
* current plot has switched (the AC plot), and vectors let-cached before
* it do not resolve in the same echo line as post-AC ones -- two
* -separate echoes, each in its own analysis' current plot, is the
* boring, verifiable alternative. run_cmrr_mismatch_mc.sh merges OP/AC
* pairs by sample index.

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib" cap_typ
.include "/Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-26/sim/cmrr-mismatch/netlist-snapshots/20260921-172304-65f5fb4/opamp_core.spice"

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib" mos_ff

.options temp=-40 tnom=27

Vdd vdd 0 dc 1.08
Vss vss 0 dc 0
Iibias vdd ibias dc 10u
Vpert cmpert 0 dc 0 ac 1
Vinp inp cmpert dc 0.54
Ccm inn cmpert 1
Lbreak inn out 1e18
Cload out vss 2e-12

.control
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi

setseed 260018
let mci = 0
dowhile mci < 3
  reset
  op
  let ivdd_op = -i(vdd)
  echo "OP $&mci $&v(out) $&v(d1) $&v(d2) $&v(tail) $&v(ibias) $&ivdd_op" >> /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-26/sim/cmrr-mismatch/corners/20260921-172304-65f5fb4/mos_ff_-40C_1.08V_negctl_samples.txt
  ac dec 1 10m 1k
  let acm10m = db(v(out))[0]
  let acm01 = db(v(out))[1]
  let acm1k = db(v(out))[5]
  echo "AC $&mci $&acm10m $&acm01 $&acm1k" >> /Users/rwalters/GitHub/sg13g2-opamp/.loom/worktrees/issue-26/sim/cmrr-mismatch/corners/20260921-172304-65f5fb4/mos_ff_-40C_1.08V_negctl_samples.txt
  let mci = mci + 1
end
.endc
.end
